US08022206B2
6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridine-3-carboxylic acid piperidin-4-ylamide
To a solution of 4-({6-amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridine-3-carbonyl}-amino)-piperidine-1-carboxylic acid tert-butyl ester (6.0 mg, 0.01 mmol) in DCM (0.2 mL) was added 1M HCl in Et2O (0.5 mL). The resulting mixture was stirred at rt overnight. LC-MS showed the reaction was complete and gave the desired product. Evaporation under reduced gave the title compound as a white solid. LC-MS (ES+): 467.00/469.04 [MH+].

reactant | 4-({6-amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridine-3-carbonyl}-amino)-piperidine-1-carboxylic acid tert-butyl ester | 0.01 mmol, 6.0 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)C1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C26H29Cl2FN4O5
reactant | HCl | 1M | Cl | ClH
solvent | DCM | 0.2 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 0.5 mL | CCOCC | C4H10O
product | 6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridine-3-carboxylic acid piperidin-4-ylamide | N1CCC(CC1)NC(=O)C1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C21H21Cl2FN4O3
